US05569655
To a suspension of 3.5 g (0.139 mol) of sodium hydride in 120 ml of DMF at 0° C. was added 8 g (0.115 mol) of 1,2,3-triazole in 50 ml of DMF dropwise, and the mixture was allowed to warm to room temperature and stirred for 1 h. The above mixture was cooled to 0° C., and 21.8 g (0.139 mol) of p-methoxybenzyl chloride was added, and the mixture was allowed to warm to room temperature and stirred for 20 h. The reaction mixture was concentrated in vacuo and the residue was purified by chromatography on silica (hexane/ethyl acetate) to afford 14 g (64.5%) of 1-(p-methoxybenzyl)-1,2,3-triazole.

reactant | sodium hydride | 0.139 mol, 3.5 g | [H-].[Na+]
reactant | 1,2,3-triazole | 0.115 mol, 8 g | N1N=NC=C1 | C2H3N3
reactant | p-methoxybenzyl chloride | 0.139 mol, 21.8 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(p-methoxybenzyl)-1,2,3-triazole | 14 g, 64.5% | COC1=CC=C(CN2N=NC=C2)C=C1 | C10H11N3O
